US08278328B2
Description 12. cis/trans-4-(Propyloxy)cyclohexanecarboxylic acid. (D12)
cis/trans-Ethyl 4-(propyloxy)cyclohexanecarboxylate (D11) (39.1 g), 40% w/w sodium hydroxide solution (150 mL), tetrahydrofuran (200 mL) and methanol (150 mL) was stirred for approx. 72 hours. The solvent was partially removed then the resulting mixture was treated with ethyl acetate and water. The aqueous layer was separated, acidified with concentrated hydrochloric acid and extracted with diethyl ether. The ether layer was washed with brine, dried with anhydrous sodium sulphate and the solvent was removed to give the title compounds as oil (15.42 g).

reactant | trans-Ethyl 4-(propyloxy)cyclohexanecarboxylate | 39.1 g | C(CC)O[C@@H]1CC[C@H](CC1)C(=O)OCC | C12H22O3
reactant | sodium hydroxide | 150 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | methanol | 150 mL | CO | CH4O
product | trans-4-(Propyloxy)cyclohexanecarboxylic acid | 15.42 g | C(CC)O[C@@H]1CC[C@H](CC1)C(=O)O | C10H18O3
